US07745641B2
In a similar manner to Step 1 of Example 137, 3-chloro-4-methoxybenzoic acid (1.00 g, 5.36 mmol) was dissolved in DMF (20 mL), and the solution was treated with EDCI (2.06 g, 10.7 mmol), HOBT monohydrate (724 mg, 5.36 mmol) and cumylamine (1.54 mL, 10.7 mmol). The reaction mixture was added with water. The precipitated solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 3-chloro-4-methoxy-N-(1-methyl-1-phenylethyl)benzamide (1.59 g, yield 97%).

reactant | 3-chloro-4-methoxybenzoic acid | 5.36 mmol, 1.00 g | ClC=1C=C(C(=O)O)C=CC1OC | C8H7ClO3
reactant | EDCI | 10.7 mmol, 2.06 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 5.36 mmol, 724 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | cumylamine | 10.7 mmol, 1.54 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-chloro-4-methoxy-N-(1-methyl-1-phenylethyl)benzamide | 1.59 g, yield 97% | ClC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1OC | C17H18ClNO2
